US07749992B2
Step 1. Preparation of Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-(benzhydrylideneamino)-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Combine tris(dibenzylideneacetone)dipalladium (0) (0.077 g, 0.084 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphyl (0.157 g, 0.252 mmol) and sodium t-butoxide (0.113 g, 1.18 mmol) in toluene (5 mL) and purge this suspension with nitrogen at room temperature for 5 min. Add benzophenoneimine (0.155 mL, 0.924 mmol) followed by isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (0.500 g, 0.840 mmol) and heat this mixture at 80° C. under nitrogen for 1 h. Cool the mixture to room temperature, dilute with dichloromethane and filter through Celite. Remove the filtrate solvent under reduced pressure and purify the residue using chromatography on silica gel, eluting with hexanes/ethyl acetate (60:40), to provide the title compound as an orange oil (0.520 g, 89%): APCI MS 696 (M+H).

reactant | sodium t-butoxide | 1.18 mmol, 0.113 g | CC(C)([O-])C.[Na+]
reactant | benzophenoneimine | 0.924 mmol, 0.155 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.840 mmol, 0.500 g | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=CC(=C2)Br | C25H25BrF6N2O3
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.084 mmol, 0.077 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-(benzhydrylideneamino)-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.520 g, 89% | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C=C(C=C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C38H35F6N3O3
